US08669266B2
(v) 4-[(R)-2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-1-methyl-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid
To a solution of 6.30 g 4-[(R)-2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-1-methyl-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid methyl ester in 14 ml THF were added 14.3 ml aqueous NaOH (1 M) and the reaction mixture was stirred for 4 h at RT. The reaction mixture was acidified with 15 ml 1 M HCl, concentrated to a volume of 25 ml and extracted with DCM to give the crude product after evaporation of the solvent. Yield: 5.00 g.

reactant | 4-[(R)-2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-1-methyl-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid methyl ester | 6.30 g | COC(=O)C1=NC2=CC(=CC=C2C(=C1)O[C@@H](C(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C)C | C24H29N3O5
reactant | NaOH | 1 M, 14.3 ml | [OH-].[Na+]
reactant | HCl | 1 M, 15 ml | Cl | ClH
solvent | THF | 14 ml | C1CCOC1 | C4H8O
product | 4-[(R)-2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-1-methyl-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid | C1(CCC1)NC(=O)[C@H]1N(CCC1)C([C@H](OC1=CC(=NC2=CC(=CC=C12)C)C(=O)O)C)=O | C23H27N3O5
